US07087601B2
5-Chloro-2-(3-methoxy-4-pyridin-2-ylphenyl)-1,3-benzoxazole hydrochloride
5-Chloro-2-(3-methoxy-4-pyridin-2-ylphenyl)-1,3-benzoxazole (26 mg) was stirred in dichloromethane. 1.0M HCl in diethyl ether (0.95 mL) was added and allowed reaction mixture to stir for 30 minutes. Concentration of reaction mixture in vacuo gave the desired compound, 5-chloro-2-(3-methoxy-4-pyridin-2-yl phenyl)-1,3-benzoxazole hydrochloride, as a pink solid. 1H NMR (CD3OD, 300 MHz) δ 8.88–7.46 (m, 10H), 4.11 (s, 3H). MS (ESI) 337 (M+H)+.

reactant | 5-Chloro-2-(3-methoxy-4-pyridin-2-ylphenyl)-1,3-benzoxazole | 26 mg | ClC=1C=CC2=C(N=C(O2)C2=CC(=C(C=C2)C2=NC=CC=C2)OC)C1 | C19H13ClN2O2
reactant | HCl | 1.0M | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | diethyl ether | 0.95 mL | C(C)OCC | C4H10O
product | 5-chloro-2-(3-methoxy-4-pyridin-2-yl phenyl)-1,3-benzoxazole hydrochloride | Cl.ClC=1C=CC2=C(N=C(O2)C2=CC(=C(C=C2)C2=NC=CC=C2)OC)C1 | InChI=1S/C19H13ClN2O2.ClH/c1-23-18-10-12(5-7-14(18)15-4-2-3-9-21-15)19-22-16-11-13(20)6-8-17(16)24-19;/h2-11H,1H3;1H
